US04730005
To an ice cold solution of 1-hexyne (49.6 mmoles) in freshly distilled tetrahydrofuran (50 ml) containing a trace of triphenylmethane was added dropwise n-butyl lithium in hexane (49.5 mmoles). About 10 minutes after the addition was stopped, sieve dried hexamethylphosphoramide (57.5 mmoles) was added and the solution stirred for 10 minutes. A solution of 2-cyclohexylethyl bromide (51.3 mmoles) in tetrahydrofuran (10 ml) was added and the reaction mixture was stirred for about 3 hours as the temperature rose to room temperature. The mixture was taken up in ether (100 ml) and washed with water (3×100 ml) and sodium chloride solution (100 ml). The organic phase was dried over magnesium sulfate and evaporated to leave an oil which was purified by flash chromatography to give 1-cyclohexyloct-3-yne. This compound (20.8 mmoles) was treated with potassium hydride (36.8 mmoles) in propylene diamine to obtain the isomeric 8-cyclohexyloct-1-yne as an oil. A mixture of 2-bromobenzaldehyde (12.59 mmoles), 8-cyclohexyloct-1-yne (14.87 mmoles), cuprous iodide (0.17 mmoles) and bis(triphenylphosphine) palladium chloride (0.26 mmoles) in triethylamine (35 ml) was refluxed under argon for 1.5 hours. The reaction mixture was cooled, filtered and the filtrate evaporated. The resulting residue was dissolved in ether (100 ml), washed with 3 N hydrochloric acid (50 ml) and saturated sodium chloride solution (50 ml) and then dried over anhydrous magnesium sulfate and charcoal. The solution was evaporated to afford an oil which was purified by flash chromatography (2% ether/hexane) to yield 2-(8-cyclohexyl-1-octynyl)benzaldehyde as an oil. This benzaldehyde (10.22 mmoles) was hydrogenated with 10% palladium on charcoal in ethyl acetate to give the desired product as an oil, after chromatography (3% ether/hexane).

reactant | 2-bromobenzaldehyde | 12.59 mmoles | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | 8-cyclohexyloct-1-yne | 14.87 mmoles | C1(CCCCC1)CCCCCCC#C | C14H24
solvent | triethylamine | 35 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine) palladium chloride | 0.26 mmoles | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(8-cyclohexyl-1-octynyl)benzaldehyde | C1(CCCCC1)CCCCCCC#CC1=C(C=O)C=CC=C1 | C21H28O
